US08067447B2
Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropanoate (700 mg, 1.87 mmol) was dissolved in 45 mL MeOH/H2O (8:1) and treated with NaOH (2 M, 10.8 mmol, 5.4 mL). The reaction was complete in 2 hours and was acidified with 1 M HCl and extracted 3×EtOAc, the combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give pure 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropanoic acid (620 mg, 92%) as a clear oil. MS found: (M+H)+=361

reactant | Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropanoate | 1.87 mmol, 700 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC(=O)OC)C1=CC=CC=C1 | C23H19FN2O2
reactant | NaOH | 10.8 mmol, 2 M, 5.4 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | MeOH H2O | 45 mL | CO.O
product | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropanoic acid | 620 mg, 92% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC(=O)O)C1=CC=CC=C1 | C22H17FN2O2
